US06492370B1
(2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]-3-phenylpropionic Acid (Compound No. 11-1)
(2S)-2-[3-[2-(Acetylthio)ethyl]-3-phenethylureido]-3-phenylpropionic acid (Compound No. 7-30, 646 mg) is dissolved in 28% aqueous ammonia (15 ml) under a nitrogen atmosphere, and the solution is stirred at room temperature for one hour. To the reaction mixture are added water and ethyl acetate, and the aqueous layer is separated from the organic layer. To the aqueous layer is added 6 N hydrochloric acid under ice cooling to acidify it, and the whole is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 415 mg (81%) of the titled compound (Compound No. 11-1).

reactant | (2S)-2-[3-[2-(Acetylthio)ethyl]-3-phenethylureido]-3-phenylpropionic acid | C(C)(=O)SCCN(C(N[C@H](C(=O)O)CC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C22H26N2O4S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonia | 15 ml | N | H3N
product | (2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]-3-phenylpropionic Acid | 415 mg, 81% | SCCN(C(N[C@H](C(=O)O)CC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C20H24N2O3S
